US04228174
(ii) N-Methyl-N,N'-dibenzyloxycarbonyl-1,2-diaminoethane
To a stirred solution of N-Methyl-1,2 diaminoethane (7.4 gm) and triethylamine (20.2 gm) in chloroform (50 ml) at 0° was added dropwise over 30 minutes benzyl chloroformate (34.1 gm). The mixture was then left to warm to room temperature over one hour. The organic solution was then washed with water, citric acid solution, sodium bicarbonate solution and finally water again. The chloroform solution was dried over magnesium sulphate and evaporated to give a yellow oil (29.6 g).

reactant | N-Methyl-1,2 diaminoethane | 7.4 gm | CNCCN | C3H10N2
reactant | triethylamine | 20.2 gm | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 34.1 gm | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-Methyl-N,N'-dibenzyloxycarbonyl-1,2-diaminoethane | 29.6 g | CN(CCNC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C19H22N2O4
